### PR TITLE
[Merged by Bors] - feat(RingTheory/LocalProperties/IntegrallyClosed): stronger version of local property of `IsIntegrallyClosed`

### PR DESCRIPTION
**Pull request by mbkybky**
Show that an integral domain $R$ is integrally closed if there exists a set of prime ideals $S$ such that $\bigcap_{\mathfrak{p} \in S} R_{\mathfrak{p}} = R$ and for every $\mathfrak{p} \in S$, $R_{\mathfrak{p}}$ is integrally closed.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/LocalProperties/IntegrallyClosed.lean [hunk 1]
```diff
@@ -66,3 +61,22 @@ theorem IsIntegrallyClosed.of_localization_maximal {R : Type*} [CommRing R] [IsD
...
     OfLocalizationMaximal fun R _ => ([IsDomain R] → IsIntegrallyClosed R) :=
   fun _ _ h _ ↦ IsIntegrallyClosed.of_localization_maximal fun p _ hpm ↦ h p hpm
+
+/-- An integral domain $R$ is integrally closed if there exists a set of prime ideals $S$ such that
+  $\bigcap_{\mathrm{p} \in S} R_{\mathrm{p}} = R$ and for every $\mathrm{p} \in S$, $R_{\mathrm{p}}$
+  is integrally closed. -/
+theorem IsIntegrallyClosed.of_localization {R : Type*} [CommRing R] [NoZeroDivisors R]
+    (S : Set (PrimeSpectrum R)) (h : ∀ p ∈ S, IsIntegrallyClosed (Localization.AtPrime p.1))
+    (hs : ⨅ p ∈ S, (Localization.subalgebra (FractionRing R) p.1.primeCompl
+    p.1.primeCompl_le_nonZeroDivisors) = ⊥) : IsIntegrallyClosed R := by
```
Comment (acmepjz) [inline Mathlib/RingTheory/LocalProperties/IntegrallyClosed.lean:71]:
```suggestion
      p.1.primeCompl_le_nonZeroDivisors) = ⊥) : IsIntegrallyClosed R := by
```

File: Mathlib/RingTheory/LocalProperties/IntegrallyClosed.lean [hunk 2]
```diff
@@ -66,3 +61,22 @@ theorem IsIntegrallyClosed.of_localization_maximal {R : Type*} [CommRing R] [IsD
...
+  apply (isIntegrallyClosed_iff (FractionRing R)).mpr
```
Comment (acmepjz) [inline Mathlib/RingTheory/LocalProperties/IntegrallyClosed.lean:72]:
```suggestion
  rw [isIntegrallyClosed_iff (FractionRing R)]
```
(untested)

File: Mathlib/RingTheory/LocalProperties/IntegrallyClosed.lean [hunk 3]
```diff
@@ -66,3 +61,22 @@ theorem IsIntegrallyClosed.of_localization_maximal {R : Type*} [CommRing R] [IsD
...
+  intro x hx
+  show x ∈ (⊥ : Subalgebra R (FractionRing R))
+  rw [← hs]
+  refine Algebra.mem_iInf.mpr (fun p ↦ (Algebra.mem_iInf.mpr (fun hp ↦ ?_)))
+  let B := Localization.subalgebra (FractionRing R) p.1.primeCompl p.1.primeCompl_le_nonZeroDivisors
+  have hb : IsIntegrallyClosed B := of_equiv (h := h p hp)
+    (IsLocalization.algEquiv p.1.primeCompl (Localization.AtPrime p.1) B).toRingEquiv
+  rcases ((isIntegrallyClosed_iff (FractionRing R)).mp hb) hx.tower_top with ⟨⟨_, hin⟩, hy⟩
+  rw [← hy]
+  exact hin
```
Comment (acmepjz) [inline Mathlib/RingTheory/LocalProperties/IntegrallyClosed.lean:82]:
```suggestion
  rwa [← hy]
```
(untested)

File: Mathlib/RingTheory/IntegralClosure/IntegrallyClosed.lean [hunk 4]
```diff
@@ -216,6 +216,15 @@ theorem exists_algebraMap_eq_of_pow_mem_subalgebra {K : Type*} [CommRing K] [Alg
...
   IsIntegrallyClosedIn.exists_algebraMap_eq_of_pow_mem_subalgebra hn hx
 
+theorem of_equiv (f : R ≃+* S) [h : IsIntegrallyClosed R] : IsIntegrallyClosed S := by
+  let _ : Algebra S R := f.symm.toRingHom.toAlgebra
+  let f : S ≃ₐ[S] R := AlgEquiv.ofRingEquiv fun _ ↦ rfl
+  let g : FractionRing S ≃ₐ[S] FractionRing R := IsFractionRing.algEquivOfAlgEquiv f
+  refine (isIntegrallyClosed_iff (FractionRing S)).mpr (fun hx ↦ ?_)
+  rcases (isIntegrallyClosed_iff _).mp h ((isIntegral_algEquiv g).mpr hx).tower_top with ⟨z, hz⟩
+  exact ⟨f.symm z, (IsFractionRing.algEquivOfAlgEquiv_algebraMap f.symm z).symm.trans <|
+    (AlgEquiv.symm_apply_eq g).mpr hz⟩
```
Comment (acmepjz) [inline Mathlib/RingTheory/IntegralClosure/IntegrallyClosed.lean:226]: Maybe you can prove `IsFractionRing S (FractionRing R)` instead, by this way you can omit `g` (not sure).

**Review by acmepjz — COMMENTED** [review]
Thank you! Looks good to me.

File: Mathlib/RingTheory/IntegralClosure/IntegrallyClosed.lean (hunk 4 above)
Comment (mbkybky) [reply Mathlib/RingTheory/IntegralClosure/IntegrallyClosed.lean:226]: I haven't found theorems that directly proves `IsFractionRing S (FractionRing R)`.

Comment (acmepjz) [reply Mathlib/RingTheory/IntegralClosure/IntegrallyClosed.lean:226]: That's OK. I don't find it either.

File: Mathlib/RingTheory/LocalProperties/IntegrallyClosed.lean [hunk 5]
```diff
@@ -66,3 +61,21 @@ theorem IsIntegrallyClosed.of_localization_maximal {R : Type*} [CommRing R] [IsD
...
     OfLocalizationMaximal fun R _ => ([IsDomain R] → IsIntegrallyClosed R) :=
   fun _ _ h _ ↦ IsIntegrallyClosed.of_localization_maximal fun p _ hpm ↦ h p hpm
+
+/-- An integral domain $R$ is integrally closed if there exists a set of prime ideals $S$ such that
+  $\bigcap_{\mathrm{p} \in S} R_{\mathrm{p}} = R$ and for every $\mathrm{p} \in S$, $R_{\mathrm{p}}$
+  is integrally closed. -/
+theorem IsIntegrallyClosed.of_localization {R : Type*} [CommRing R] [NoZeroDivisors R]
+    (S : Set (PrimeSpectrum R)) (h : ∀ p ∈ S, IsIntegrallyClosed (Localization.AtPrime p.1))
+    (hs : ⨅ p ∈ S, (Localization.subalgebra (FractionRing R) p.1.primeCompl
+      p.1.primeCompl_le_nonZeroDivisors) = ⊥) : IsIntegrallyClosed R := by
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/RingTheory/LocalProperties/IntegrallyClosed.lean:71]: > any family of integrally closed R-subalgebras of S is again integrally closed?

You mean intersections of them?

File: Mathlib/RingTheory/LocalProperties/IntegrallyClosed.lean [hunk 6]
```diff
@@ -66,3 +61,34 @@ theorem IsIntegrallyClosed.of_localization_maximal {R : Type*} [CommRing R] [IsD
 theorem isIntegrallyClosed_ofLocalizationMaximal :
     OfLocalizationMaximal fun R _ => ([IsDomain R] → IsIntegrallyClosed R) :=
   fun _ _ h _ ↦ IsIntegrallyClosed.of_localization_maximal fun p _ hpm ↦ h p hpm
+
+variable {R K : Type*} [CommRing R] [Field K] [Algebra R K] [IsFractionRing R K]
+
+theorem IsIntegrallyClosed.of_inf {ι : Type*} (S : ι → Subalgebra R K)
+    (h : ∀ i : ι, IsIntegrallyClosed (S i)) (hs : ⨅ i : ι, S i = ⊥) : IsIntegrallyClosed R := by
```
Comment (acmepjz) [inline Mathlib/RingTheory/LocalProperties/IntegrallyClosed.lean:68]: Maybe you want a version stating `IsIntegrallyClosed (⨅ i : ι, S i)`?

**Review by acmepjz — APPROVED** [review]
Thank you! Looks good to me.

File: Mathlib/RingTheory/Localization/AsSubring.lean [hunk 7]
```diff
@@ -130,8 +130,13 @@ instance isLocalization_ofField : IsLocalization S (subalgebra.ofField K S hS) :
   rw [Subalgebra.copy_eq]
   infer_instance
 
+instance _root_.Subalgebra.isFractionRing (S : Subalgebra A K) : IsFractionRing S K := by
```
Comment (alreadydone) [inline Mathlib/RingTheory/Localization/AsSubring.lean:133]:
```suggestion
instance (S : Subalgebra A K) : IsFractionRing S K := by
```
you could omit the name if you want

File: Mathlib/RingTheory/Localization/AsSubring.lean [hunk 8]
```diff
@@ -130,8 +130,13 @@ instance isLocalization_ofField : IsLocalization S (subalgebra.ofField K S hS) :
   rw [Subalgebra.copy_eq]
   infer_instance
```
Comment (alreadydone) [inline Mathlib/RingTheory/Localization/AsSubring.lean:131]: Adding
```
theorem ofField_eq : ofField K S hS = subalgebra K S hS := by
  simp_rw [ofField, subalgebra, Subalgebra.copy_eq]
```
before this should make this easier.

File: Mathlib/RingTheory/LocalProperties/IntegrallyClosed.lean [hunk 9]
```diff
@@ -16,20 +16,17 @@ In this file, we prove that `IsIntegrallyClosed` is a local property.
...
 open scoped nonZeroDivisors
 
 open Localization Ideal IsLocalization
 
+variable {R K : Type*} [CommRing R] [Field K] [Algebra R K] [IsFractionRing R K]
+
 /-- An integral domain `R` is integral closed if `Rₘ` is integral closed
   for any maximal ideal `m` of `R`. -/
-theorem IsIntegrallyClosed.of_localization_maximal {R : Type*} [CommRing R] [IsDomain R]
+theorem IsIntegrallyClosed.of_localization_maximal [IsDomain R]
```
Comment (alreadydone) [inline Mathlib/RingTheory/LocalProperties/IntegrallyClosed.lean:29]: These can be golfed if you move them to the end of the file:
```
/-- An integral domain `R` is integral closed if `Rₘ` is integral closed
  for any maximal ideal `m` of `R`. -/
theorem IsIntegrallyClosed.of_localization_maximal [IsDomain R]
    (h : ∀ p : Ideal R, p ≠ ⊥ → [p.IsMaximal] → IsIntegrallyClosed (Localization.AtPrime p)) :
    IsIntegrallyClosed R := by
  by_cases hf : IsField R
  · exact hf.toField.instIsIntegrallyClosed
  refine .of_localization (.range MaximalSpectrum.toPrimeSpectrum) (fun _ ↦ ?_) ?_
  · rintro ⟨p, rfl⟩
    exact h p.asIdeal (Ring.ne_bot_of_isMaximal_of_not_isField p.isMaximal hf)
  · rw [iInf_range]
    convert MaximalSpectrum.iInf_localization_eq_bot R (FractionRing R)
    rw [subalgebra.ofField_eq, MaximalSpectrum.toPrimeSpectrum]

theorem isIntegrallyClosed_ofLocalizationMaximal :
    OfLocalizationMaximal fun R _ => ([IsDomain R] → IsIntegrallyClosed R) :=
  fun _ _ h _ ↦ IsIntegrallyClosed.of_localization_maximal fun p _ hpm ↦ h p hpm
```

**Review by alreadydone — APPROVED** [review]
Thanks!

**Review by alreadydone — APPROVED** [review]
Thanks 🎉 
maintainer merge

**Review by alreadydone — APPROVED** [review]
Thanks 🎉 
maintainer merge

File: Mathlib/RingTheory/LocalProperties/IntegrallyClosed.lean [hunk 10]
```diff
@@ -16,52 +16,63 @@ In this file, we prove that `IsIntegrallyClosed` is a local property.
 
 * `IsIntegrallyClosed.of_localization_maximal` : An integral domain `R` is integral closed
   if `Rₘ` is integral closed for any maximal ideal `m` of `R`.
-
-## TODO
-
-Prove that `IsIntegrallyClosed` is preserved by localization
```
Comment (erdOne) [inline Mathlib/RingTheory/LocalProperties/IntegrallyClosed.lean:22]: Is this todo really done? Preserved by localization probably means `R` integrally closed => `R_p` integrally closed but I don't see that in this PR.

Comment (alreadydone) [reply Mathlib/RingTheory/LocalProperties/IntegrallyClosed.lean:22]: [isIntegrallyClosed_of_isLocalization](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/IntegralClosure/IntegrallyClosed.html#isIntegrallyClosed_of_isLocalization) is already there
(added 7 months ago in https://github.com/leanprover-community/mathlib4/commit/134f2f109f0ac326add237c68eee4d87539f0926)

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
